US07662771B2
5-[4-(2-methoxy-phenyl)-5-methyl-oxazol-2-yl]-pentanoic acid methyl ester
Combine 2-Bromo-1-(2-methoxy-phenyl)-propan-1-one (7.25 g, 29.8 mmol) with 5-carbamoyl-pentanoic acid methyl ester (9.5 g, 60.5 mmol) and heat the neat mixture in a sealed vessel at 140-150° C. for about 4 h. Cool the mixture, transfer to a flask using methanol and concentrate. Partition the residue between water and EtOAc. Dry the combined extracts over Na2SO4 and concentrate. Chromatography over silica gel (MeOH/CH2Cl2) allows for recovery of 5-[4-(2-methoxy-phenyl)-5-methyl-oxazol-2-yl]-pentanoic acid methyl ester (3.63 g, 40%). MS (ES): (M+1)+ 304.2 m/z.

reactant | 2-Bromo-1-(2-methoxy-phenyl)-propan-1-one | 29.8 mmol, 7.25 g | BrC(C(=O)C1=C(C=CC=C1)OC)C | C10H11BrO2
reactant | 5-carbamoyl-pentanoic acid methyl ester | 60.5 mmol, 9.5 g | COC(CCCCC(N)=O)=O | C7H13NO3
solvent | methanol | CO | CH4O
product | 5-[4-(2-methoxy-phenyl)-5-methyl-oxazol-2-yl]-pentanoic acid methyl ester | COC(CCCCC=1OC(=C(N1)C1=C(C=CC=C1)OC)C)=O | C17H21NO4
